US08957074B2
Preparation of 3-Benzyl-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester
To a solution of 3-benzyl-3,9-diaza-bicyclo[3.3.1]nonane (755 mg, 3.49 mmol, 1.0 eq) in CH2Cl2 (10 mL) was added di-tert-butylcarbonate (990 mg, 4.54 mmol, 1.3 eq) and triethylamine (0.730 mL, 5.24 mmol, 1.5 eq) and the mixture stirred for 16 hours at 23° C.

reactant | 3-benzyl-3,9-diaza-bicyclo[3.3.1]nonane | 3.49 mmol, 755 mg, 1.0 eq | C(C1=CC=CC=C1)N1CC2CCCC(C1)N2 | C14H20N2
reactant | di-tert-butylcarbonate | 4.54 mmol, 990 mg, 1.3 eq | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | triethylamine | 5.24 mmol, 0.730 mL, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Benzyl-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CCC2)CC2=CC=CC=C2 | C19H28N2O2
